US06903118B1
N-{2-[4-(tert-butoxycarbonyl)-piperazin-1-yl]-ethyl]-3-pyridin-3-yl-acrylamide (Substance 374)
Batch size: 36.1 g (242 mmol) 3-(3-pyridyl)-acrylic acid, 23.1 ml (264 mmol) oxalyl chloride, 50 g (15.4 mmol) 2-[4-(tert-but-oxycarbonyl)-piperazin-1-yl]-ethylamine and 30.4 ml (220 mmol) TEA in 400 ml absolute dichloromethane.

reactant | 3-(3-pyridyl)-acrylic acid | 242 mmol, 36.1 g | N1=CC(=CC=C1)C=CC(=O)O | C8H7NO2
reactant | oxalyl chloride | 264 mmol, 23.1 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-[4-(tert-but-oxycarbonyl)-piperazin-1-yl]-ethylamine | 15.4 mmol, 50 g | C(C)(C)(C)OC(=O)N1CCN(CC1)CCN | C11H23N3O2
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | N-{2-[4-(tert-butoxycarbonyl)-piperazin-1-yl]-ethyl]-3-pyridin-3-yl-acrylamide | C(C)(C)(C)OC(=O)N1CCN(CC1)CCNC(C=CC=1C=NC=CC1)=O | C19H28N4O3
